US09359329B2
A mixture of 2 g (15.4 mmol) of 2-chloropyridin-4-ol, 3.82 g (15.1 mmol) of 3-(bromomethyl)pyridine hydrobromide, 3 g (75.6 mmol) of sodium hydroxide and 1.39 g (4.3 mmol) of tetrabutylammonium bromide in 90 mL of toluene is refluxed for 12 hours. After cooling to room temperature, the reaction medium is taken up in 300 mL of EtOAc, washed successively with water (2×100 mL), with saturated NaHCO3 solution (100 mL) and with brine (100 mL), dried over Na2SO4, filtered, concentrated under reduced pressure and then purified by chromatography on silica gel, eluting with a 98/2 DCM/MeOH mixture. 2.5 g of 2-chloro-4-(pyridin-3-ylmethoxy)pyridine are obtained in the form of a yellow oil.

reactant | 2-chloropyridin-4-ol | 15.4 mmol, 2 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | 3-(bromomethyl)pyridine hydrobromide | 15.1 mmol, 3.82 g | Br.BrCC=1C=NC=CC1
reactant | sodium hydroxide | 75.6 mmol, 3 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 4.3 mmol, 1.39 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-4-(pyridin-3-ylmethoxy)pyridine | 2.5 g, Yield=73% | ClC1=NC=CC(=C1)OCC=1C=NC=CC1 | C11H9ClN2O
